US05508416
To a 500 ml four-necked flask equipped with a stirrer, a thermometer, and a condenser, 31.3 g (0.2 mol) of 2-chlorobenzoic acid and 180 g of toluene are placed. To the above mixture in the flask, 25.0 g (0.21 mol) of thionyl chloride is added dropwise over 30 minutes while stirring at a temperature of from 60° to 65° C. to be allowed to react with each other for about 30 minutes. To the above reaction mixture, a solution containing 27.9 g (0.3 mol) of aniline dissolved in 100 g of toluene is dropwise added to be allowed to react with each other at a temperature of from 70° to 75° C. for 30 minutes. After completion of the reaction, the reaction mixture is cooled to room temperature, and 70 g of a 5% by weight hydrochloric acid solution is added to the above mixture. The mixture is vigorously shaken and kept standing for separation of the toluene layer from the aqueous layer. After separation of the toluene layer, it is condensed to precipitate white crystals, followed by recrystallization (in a water/methanol mixture of 3/7), to give 43.1 g of N-phenyl-2-chlorobenzamide (melting point: 116° to 117° C.). The yield of the product against 2-chlorobenzoic acid is 93%.

reactant | 2-chlorobenzoic acid | 0.2 mol, 31.3 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | thionyl chloride | 0.21 mol, 25.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 0.3 mol, 27.9 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 180 g | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-2-chlorobenzamide | 43.1 g | C1(=CC=CC=C1)NC(C1=C(C=CC=C1)Cl)=O | C13H10ClNO
